US08030487B2
Synthesis of (5-Bromo-Pyridin-2-yl)-[4-(2-Hydroxy-Ethyl)-Piperazin-1-yl]-Methanone (Intermediate 46)
The title compound was prepared from 5-bromo-pyridine-2-carboxylic acid (1.0 g, 5.0 mmol) and 2-piperazin-1-yl-ethanol (1.0 g, 7.7 mmol) according to Method A (Example 89). After the removal of solvent, the residue was triturated in hexane-Et2O (5:1 v/v) and the white solid filtered (1.0 g, 65%).

reactant | 5-bromo-pyridine-2-carboxylic acid | 5.0 mmol, 1.0 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | 2-piperazin-1-yl-ethanol | 7.7 mmol, 1.0 g | N1(CCNCC1)CCO | C6H14N2O
product | (5-Bromo-Pyridin-2-yl)-[4-(2-Hydroxy-Ethyl)-Piperazin-1-yl]-Methanone | BrC=1C=CC(=NC1)C(=O)N1CCN(CC1)CCO | C12H16BrN3O2
